US07973012B2
Preparation of N-allyl-N′-(2-hydroxy-1,1-dimethylethyl)urea
To a chloroform solution (60 mL) of allylamine (1.5 g, 26.3 mmol) were added triethylamine (4.9 mL, 35.5 mmol) and at 4° C. 4-nitrophenyl chloroformate (6.09 g, 30.2 mmol), and the mixture was stirred for an hour. To this reaction solution was added at the same temperature a chloroform solution (3 mL) of 2-amino-2-methylpropanol (2.58 g, 28.9 mmol), and the mixture was stirred overnight at room temperature. The reaction solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (ethyl acetate) to obtain the title compound (4.0 g, 88%) as a yellow oily compound.

reactant | allylamine | 26.3 mmol, 1.5 g | C(C=C)N | C3H7N
reactant | triethylamine | 35.5 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 30.2 mmol, 6.09 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-amino-2-methylpropanol | 28.9 mmol, 2.58 g | NC(CO)(C)C | C4H11NO
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | N-allyl-N′-(2-hydroxy-1,1-dimethylethyl)urea | 4.0 g, 88% | C(C=C)NC(=O)NC(CO)(C)C | C8H16N2O2
